US05091432
1.181 g (5.00 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was placed into a 25 ml flask equipped with a magnetic stirring bar. About 5 ml absolute ethanol was added and then 2.50 g (50.00 mmol) of hydrazine hydrate was added and the solution was stirred at room temperature in a closed flask. A large amount of precipitate formed after about 30 minutes and the solution was allowed to stand overnight. The solution was filtered by vacuum and the white solid was washed with ethanol and then with ether. Upon drying, 0.890 g of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid hydrazide (AIT-0056) as a white solid was obtained. Yield: 80%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 5.00 mmol, 1.181 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | hydrazine hydrate | 50.00 mmol, 2.50 g | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid hydrazide | 0.890 g, Yield: 80% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NN | C8H10N6O2
